US07674789B2
163a) 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N,4-dimethylbenzamide
3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzoic acid (0.59 g, 1.33 mmol) was taken up in CH2Cl2 (75 mL), and diisopropylethylamine (0.7 mL, 4 mmol) was added followed by HATU (0.556 g, 1.46 mmol). Gaseous methyl amine was then bubbled in very slowly until reaction was complete. Aqueous workup followed by chromatography on silica gel (100 g) eluted with CH2Cl2 —90% EtOAc/CH2Cl2 gave the title compound as a white amorphous solid. mp 273-275° C. LC-MS m/z 456 (M+H)+, 1.85 min (ret time).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzoic acid | 1.33 mmol, 0.59 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)SC)=O | C21H16F2N4O3S
reactant | diisopropylethylamine | 4 mmol, 0.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 1.46 mmol, 0.556 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N,4-dimethylbenzamide | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC)C=CC2C)SC)=O | C22H19F2N5O2S
